US04767769
In a similar manner to that described above in Example 17 ethyl 4-(3-piperidinomethylphenoxy)butyrate (b.p. 190°-200° C./0.005 mm Hg) was prepared from N-3-hydroxybenzylpiperidine and ethyl 4-bromobutyrate. The resulting ester (21.4 g) was then hydrolysed by heating under reflux with potassium hydroxide (3.6 g), water (210 ml) and industrial methylated spirit (210 ml) for 30 minutes. 5N Hydrochloric acid (13.7 ml) was then added and the solvent removed by evaporation in vacuo. The residue was dried by azeotropic distillation with toluene and then with ethanol. The residue was digested with ethanol (420 ml). The ethanolic liquor was filtered and the solvent removed from the filtrate to give a yellow oil which was crystallised from a mixture of methanol and ether to give 4-(3-piperidinomethylphenoxy)butyric acid (m.p. 73°-77° C.).

reactant | ethyl 4-(3-piperidinomethylphenoxy)butyrate | N1(CCCCC1)CC=1C=C(OCCCC(=O)OCC)C=CC1 | C18H27NO3
reactant | N-3-hydroxybenzylpiperidine | OC=1C=C(CN2CCCCC2)C=CC1 | C12H17NO
reactant | ethyl 4-bromobutyrate | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium hydroxide | 3.6 g | [OH-].[K+]
reactant | Hydrochloric acid | 5N, 13.7 ml | Cl | ClH
solvent | water | 210 ml | O | H2O
product | 4-(3-piperidinomethylphenoxy)butyric acid | N1(CCCCC1)CC=1C=C(OCCCC(=O)O)C=CC1 | C16H23NO3
